US05567822
10 g of 2-chloro-6-trifluoromethoxybenzothiazole are added dropwise over one hour to a mixture, cooled to 10° C., of concentrated sulphuric acid (50 cm3) and concentrated nitric acid (25 cm3). The mixture is then heated for one hour at 60° C. After cooling, the mixture is poured into an ice/water mixture (1/1 by weight) and extracted with 3 times 100 cm3 of chloroform. The organic phases are dried over magnesium sulphate and concentrated under vacuum (2.7 kPa). The residue is purified by flash chromatography with a chloroform/cyclohexane mixture (4/6 by volume) as eluent. 6.4 g of 2-chloro-7-nitro-6-trifluoromethoxybenzothiazole are thus obtained, melting at 64° C.

reactant | 2-chloro-6-trifluoromethoxybenzothiazole | 10 g | ClC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H3ClF3NOS
reactant | nitric acid | 25 cm3 | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 50 cm3 | S(O)(O)(=O)=O | H2O4S
product | 2-chloro-7-nitro-6-trifluoromethoxybenzothiazole | 6.4 g | ClC=1SC2=C(N1)C=CC(=C2[N+](=O)[O-])OC(F)(F)F | C8H2ClF3N2O3S
